US06531492B1
4,4,4-Trifluoro-1-(3-methyl-4-methoxylphenyl)-1,3-butanedione (Step 2)
To stirred solution of 1-(3-methyl-4-methoxyphenyl)ethanone (3.29 g, 20 mmol) in DME was added ethyl trifluoroacetate (5.68 g, 40 mmol) and sodium methoxide (4.32 g, 80 mmol), and the resulting reaction mixture was stirred at room temperature overnight. EtOAc (200 ml) and water (50 ml) were added, and the pH of the aqueous layer was adjusted to 6 by addition of 1 N HCl solution. The organic layer was washed with brine (50 ml), dried over Na2SO4, and concentrated in vacuo to give the crude product which was recrystallized from isooctane to give the title compound (3.2 g, 62%).

reactant | 1-(3-methyl-4-methoxyphenyl)ethanone | 20 mmol, 3.29 g | CC=1C=C(C=CC1OC)C(C)=O | C10H12O2
reactant | ethyl trifluoroacetate | 40 mmol, 5.68 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium methoxide | 80 mmol, 4.32 g | C[O-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | DME | COCCOC | C4H10O2
solvent | water | 50 ml | O | H2O
solvent | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
product | 4,4,4-Trifluoro-1-(3-methyl-4-methoxylphenyl)-1,3-butanedione | 3.2 g, 62% | FC(C(CC(=O)C1=CC(=C(C=C1)OC)C)=O)(F)F | C12H11F3O3
